US04123529
1-[5-(3,4-Dimethylphenyl)-furan-2-ylmethyl]-4-phenylpiperazine
5-(3,4-Dimethylphenyl)-furan-2-carboxaldehyde (4.0g;0.02 mole), prepared by the method of C. S. Davis and G. S. Lougheed J.Het.Chem. 4,153, (1967), was added rapidly to a stirred solution of N-phenylpiperazine (3.2g; 0.02 mole) in methanol (30ml) adjusted to pH 7 (using MeOH/HCl). After 30 minutes a solution of sodium cyanoborohydride (0.48g; 0.0075 mole) in methanol (10ml) was added dropwise and the mixture stirred at room temperature for 2 hours. After removal of the methanol by evaporation, the resultant solid was purified by silica gel chromatography. The fractions containing the desired compound were combined, evaporated and the crystalline solid which formed was recrystallised from 60/80° C. petroleum ether to give the title compound, m.p. 110° C.

reactant | 5-(3,4-Dimethylphenyl)-furan-2-carboxaldehyde | 0.02 mole, 4.0g | CC=1C=C(C=CC1C)C1=CC=C(O1)C=O | C13H12O2
reactant | N-phenylpiperazine | 0.02 mole, 3.2g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | MeOH HCl | CO.Cl
reactant | sodium cyanoborohydride | 0.0075 mole, 0.48g | C(#N)[BH3-].[Na+]
solvent | methanol | 30ml | CO | CH4O
solvent | methanol | 10ml | CO | CH4O
product | 1-[5-(3,4-Dimethylphenyl)-furan-2-ylmethyl]-4-phenylpiperazine | CC=1C=C(C=CC1C)C1=CC=C(O1)CN1CCN(CC1)C1=CC=CC=C1 | C23H26N2O
